US06867198B2
3-(5-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione
Beginning with indole-3-acetamide and (5-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | indole-3-acetamide | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | (5-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2CC(CC3=CC=CC1=C23)C)=O | C15H15NO3
product | 3-(5-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione | CC1CN2C3=C(C=CC=C3C1)C(=C2)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O | C24H19N3O2
